US06465507B2
2-oxo-piperidine-1-carboxylic acid tert-butyl ester (3.8 g, 19 mmol) in THF (12 mL) was added dropwise to a cooled lithium diisopropylamide (LDA, 19 mL, 2.0 M solution in heptane/THF/ethylbenzene) at −78° C. After stirring for 35 minutes at −78° C., to the mixture was added dropwise a solution of phenyl disulfide (4.15 g, 19 mmol) and hexamethylphosphoramide (HMPA, 3.3 mL, 19 mmol) in THF (10 mL). The mixture was stirred at −78° C. and then gradually warmed up to room temperature. The reaction was poured into water (200 mL) and extracted with ether (3×). The combined ethereal extracts were washed consecutively with 10% NaOH and water, and were then dried and concentrated to give 2-oxo-3-phenylsulfanyl-piperidine-1-carboxylic acid tert-butyl ester as an oil. The oil was used in the next step without further purification.

reactant | 2-oxo-piperidine-1-carboxylic acid tert-butyl ester | 19 mmol, 3.8 g | C(C)(C)(C)OC(=O)N1C(CCCC1)=O | C10H17NO3
reactant | lithium diisopropylamide | 2.0 M, 19 mL | C(C)(C)[N-]C(C)C.[Li+]
reactant | phenyl disulfide | 19 mmol, 4.15 g | C1(=CC=CC=C1)SSC1=CC=CC=C1 | C12H10S2
reactant | hexamethylphosphoramide | 19 mmol, 3.3 mL | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
solvent | THF | 12 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | water | 200 mL | O | H2O
product | 2-oxo-3-phenylsulfanyl-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C(C(CCC1)SC1=CC=CC=C1)=O | C16H21NO3S
